US04814112
Preparation of 1-palmitoyl-1,2,4-triazole:
Palmitoyl chloride is dissolved in methylene chloride and added dropwise to a solution of 2 equivalents of 1,2,4-triazole in methylene chloride, the mixture is stirred for some hours at room temperature and filtered, and the filtrate is used directly in the reaction.

reactant | Palmitoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | 1,2,4-triazole | 2 equivalents | N1N=CN=C1 | C2H3N3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-palmitoyl-1,2,4-triazole | C(CCCCCCCCCCCCCCC)(=O)N1N=CN=C1 | C18H33N3O
